US06486354B1
Polymer-bound piperidinecarboxylic Acid, Methyl Ester
Polymer-bound piperidinecarboxylic acid, ethyl ester resin (0.25 g, 0.283 mmol) was swollen with a solution of MeOH (1 ml) in THF (4 ml) in a QUICKFIT test-tube. After addition of sodium methoxide (0.28 ml, 0.028 mmol, 1M solution in MeOH) the resulting suspension was stirred overnight at reflux. The reaction suspension was cooled down to room temperature and the resin was washed using VACMASTER station with DCM (4×3 ml), MeOH (2×3 ml) and then dried under vacuum. FT-IR (2% w/w KBr disk): C=0 1736 cm−1 (ester); 163 cm−1 (amide).

reactant | piperidinecarboxylic acid, ethyl ester | 0.283 mmol, 0.25 g | N1(CCCCC1)C(=O)OCC | C8H15NO2
reactant | MeOH | 1 ml | CO | CH4O
reactant | sodium methoxide | 0.028 mmol, 1M, 0.28 ml | C[O-].[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | piperidinecarboxylic Acid, Methyl Ester | N1(CCCCC1)C(=O)OC | C7H13NO2
